US06150373
A solution of 2.5 g (13 mmol) of 2-(3-amino-phenyl)-2-ethyl-butyronitrile in 30 ml of tetrahydrofuran was treated with 30 ml (30 mmol) of a 1M solution of lithium aluminium hydride in tetrahydrofuran and the mixture was heated at reflux for 2 hours then cooled. The mixture was cautiously quenched by the addition of 1 ml water, 0.5 ml 2M sodium hydroxide and 1.5 ml water and then filtered through hyflo filter aid. The filtrate was evaporated to give 0.88 g (35%) of 3-(1-aminomethyl-1-ethyl-propyl)-aniline as a pale yellow oil. [Mass spectrum (ESI) MH+ =193].

reactant | 2-(3-amino-phenyl)-2-ethyl-butyronitrile | 13 mmol, 2.5 g | NC=1C=C(C=CC1)C(C#N)(CC)CC | C12H16N2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(1-aminomethyl-1-ethyl-propyl)-aniline | 0.88 g, 35% | NCC(CC)(CC)C=1C=C(N)C=CC1 | C12H20N2
